US06936596B2
Production of triethylammonium 2-(6-cyano-1-hexyn-1-yl)adenosine 5′-monophosphate
Under argon, A 2-(6-cyano-1-hexyn-1-yl)adenosine (2.41 g) was dissolved in triethyl phosphate (15 mL), and, under ice-cooling conditions, phosphorous oxychloride (25.2 mL, 3.9 eq.) was added thereto, followed by stirring at the same temperature for 5 hours. The reaction mixture was added dropwise to a 10% sodium hydroxide solution (300 mL), and the resultant mixture was washed with ether. The aqueous layer was separated and water was removed under reduced pressure, and the residue was purified by C18 silica gel column chromatography (0.1M triethylammonium acetate buffer:acetonitrile=100:0 to 60:40). The thus-obtained fraction was concentrated, and the concentrate was subjected to C18 silica gel column chromatography (water:acetonitrile=100:0 to 60:40), to thereby remove the triethylammonium acetate buffer. The residue was freeze-dried, to thereby yield 1.14 g of the above-titled compound as a colorless amorphous substance.

reactant | 2-(6-cyano-1-hexyn-1-yl)adenosine | 2.41 g | C(#N)CCCCC#CC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C17H20N6O4
reactant | phosphorous oxychloride | 25.2 mL, 3.9 eq. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 300 mL | [OH-].[Na+]
reactant | triethyl phosphate | 15 mL | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | triethylammonium 2-(6-cyano-1-hexyn-1-yl)adenosine 5′-monophosphate | P(=O)([O-])([O-])OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC(=NC12)C#CCCCCC#N)O)O.C(C)[NH+](CC)CC.C(C)[NH+](CC)CC | InChI=1S/C17H21N6O7P.2C6H15N/c18-7-5-3-1-2-4-6-11-21-15(19)12-16(22-11)23(9-20-12)17-14(25)13(24)10(30-17)8-29-31(26,27)28;2*1-4-7(5-2)6-3/h9-10,13-14,17,24-25H,1-3,5,8H2,(H2,19,21,22)(H2,26,27,28);2*4-6H2,1-3H3/t10-,13-,14-,17-;;/m1../s1
